US05747456
The adenylate cyclase activity induced by each of Analogs I-V was also measured in SaOS-2 B10 cells as described previously (Rodan et al. 1983 J. Clin. Invest. 72;1511; Goldman et al. 1988 Endocrinology 123, 1468). Confluent SaOS-2 B10 cells in 24 wells plates were incubated 0.5 μCi[3H]adenine (26.9 Ci/mmol, New England Nuclear, Boston, Mass.) in fresh medium at 37° C. for 2 hrs, and washed twice with Hank's solution. The cells were treated with 1 mM IBMX [isobutylmethylxanthine, Sigma, St. Louis, Mo.] in fresh medium for 15 min, and a tested PTH analog was added to the medium to incubate for 5 min. The reaction was stopped by the addition of 1.2M TCA followed by sample neutralization with 4N KOH. Cyclic AMP was isolated by the two-column chromatographic method (see Salomon et al. 1974 Anal. Biochem. 58;541). The radioactivity was counted in a scintillation counter (Liquid scintillation counter 2200CA, PACKARD, Downers Grove, Ill.). The EC50 's (half maximal stimulation of adenylate cyclase) were calculated for the five PTH analogs and are shown below:

reactant | adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
reactant | Rodan | C1=CC(=CC=C1N)SC#N | C7H6N2S
product | Cyclic AMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
